US05100762
Methacrylic acid (0.1 mol) and hexaethyldigermoxane (0.05 mol) were dissolved in xylene and subjected to reaction. The water that formed as the reaction proceeded was removed with the solvent by distillation. The by-product of the reaction was distilled off under vacuum and the residue was dried under vacuum to obtain triethylgermane methacrylate (m.p. 78° C.; yield, 70%). This triethylgermane methacrylate was put into a round-bottom flask and xylene was added to achieve a concentration of ca. 50%. Benzoyl peroxide (1 mol % of the triethylgermane methacrylate) dissolved in xylene was charged into a dropping funnel. After equipping the flask with this funnel, the benzoyl peroxide solution was dripped in an amount of about 10% of the total quantity. Thereafter, the flask was heated to the reflux temperature and the remaining polymerization initiator was slowly added dropwise until the reaction was completed in 8 hours. After the reaction, the content of the flask was added to n-hexane and subjected to re-precipitation. The resulting precipitate was recovered and dried to obtain poly(triethylgermane methacrylate). Yield, 76%, Mn, 42,000; Mw/Mn=2.0, IR (ν cm-1), 1700, 1135, 710; atomic absorption spectrum (Sn content), 29.50 (found) and 29.65 (calculated).

reactant | Methacrylic acid | 0.1 mol | C(C(=C)C)(=O)O | C4H6O2
reactant | hexaethyldigermoxane | 0.05 mol | C(C)[Ge](O[Ge](CC)(CC)CC)(CC)CC | C12H30Ge2O
reactant | water | O | H2O
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | triethylgermane methacrylate | 70% | C(C(=C)C)(=O)O.C(C)[GeH](CC)CC | InChI=1S/C6H16Ge.C4H6O2/c1-4-7(5-2)6-3;1-3(2)4(5)6/h7H,4-6H2,1-3H3;1H2,2H3,(H,5,6)
